US06162819
3-(5-Hydroxymethyl-2-furyl)-1-(2-phenylethyl)indazole:
A solution of 300 mg (0.83 mmol) of 3-(5-ethoxycarbonyl-2-furyl)-1-(2-phenylethyl)indazole in 10 ml of THF was added dropwise to 31.5 mg (0.83 mmol) of lithium aluminum hydride in 10 ml of THF. After 1 h, the mixture was admixed with 25% strength potassium carbonate solution and the precipitate was separated off and washed with THF. The combined THF filtrates were dried and concentrated. The crude product was purified by silica gel chromatography using dichloromethane/methanol (95:5). This gave 200 mg (75%) of the title compound.

reactant | 3-(5-ethoxycarbonyl-2-furyl)-1-(2-phenylethyl)indazole | 0.83 mmol, 300 mg | C(C)OC(=O)C1=CC=C(O1)C1=NN(C2=CC=CC=C12)CCC1=CC=CC=C1 | C22H20N2O3
reactant | lithium aluminum hydride | 0.83 mmol, 31.5 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(5-Hydroxymethyl-2-furyl)-1-(2-phenylethyl)indazole | OCC1=CC=C(O1)C1=NN(C2=CC=CC=C12)CCC1=CC=CC=C1 | C20H18N2O2
